US07378525B2
4-(4-Cyano-5,6,7,8-tetrahydro-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid tert-butyl ester (545 mg, 1.30 mmol) was dissolved in a mixture of isopropanol (2 ml) and 2N KOH (4 mL). The reaction was stirred for 5 days at 80° C. The isopropanol was removed in vacuo and the residue was diluted with H2O (20 mL). The mixture was charged to a separatory funnel and extracted three times with dichloromethane. The combined organic layers were washed with brine, dried over MgSO4, and concentrated in vacuo to a white solid that was triturated with dichloromethane to afford 4-(4-carbamoyl-5,6,7,8-tetrahydro-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid tert-butyl ester F-29 as a white solid. Wt.: 340 mg (60%). 1H NMR (300 MHz, d6-DMSO) δ 7.81 (m, 2H), 7.72 (d, 1H), 7.52 (s, 1H), 7.23 (d, 1H), 3.72 (m, 2H), 3.09 (m, 3H), 2.81 (m, 2H), 2.71 (m, 2H), 1.70 (m, 4H), 1.55 (m, 2H), 1.36 (s, 9H), 1.25 (m, 2H); LC/MS m/z 436 (M−H)−.)−. The aqueous extract was acidified to pH 2 with 1N HCl and extracted twice with dichloromethane. The combined organic extracts were washed with brine and dried over MgSO4. Filtration and concentration in vacuo afforded 4-(4-carboxy-5,6,7,8-tetrahydro-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid tert-butyl ester as a white solid. Wt.: 76 mg (13%). 1H NMR (300 MHz, d6-DMSO) δ 7.72 (d, 1H), 7.33 (s, 1H), 7.23 (d, 1H), 3.72 (m, 2H), 3.09 (m, 3H), 2.81 (m, 2H), 2.71 (m, 2H), 1.70 (m, 4H), 1.55 (m, 2H), 1.36 (s, 9H), 1.25 (m, 2H); LC/MS m/z 437 (M−H)−.

reactant | 4-(4-Cyano-5,6,7,8-tetrahydro-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid tert-butyl ester | 1.30 mmol, 545 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C=2CCCCC12)C#N | C21H29N3O4S
reactant | isopropanol | 2 ml | C(C)(C)O | C3H8O
solvent | KOH | 2N, 4 mL | [OH-].[K+]
product | 4-(4-carbamoyl-5,6,7,8-tetrahydro-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C=2CCCCC12)C(N)=O | C21H31N3O5S
